US08629270B2
Benzyl 6a-(2-trimethylsilylthiazol-5-yl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate
A −78° C. solution of 2-trimethylsilylthiazole (383 mg, 2.44 mmol) in tetrahydrofuran (3 mL) is treated drop wise with a solution of n-butyl lithium (1.52 mL, 2.44 mmol, 1.6 M hexanes) and the reaction is stirred at −78° C. for 10 minutes to give a thick orange slurry. The slurry is treated with boron trifluoride etherate (205 μL, 1.62 mmol) to give a red mixture and then a solution of benzyl(3aR)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate (200 mg, 812 μmol) is added immediately in toluene (2 mL) to this mixture. The resultant mixture is stirred at −78° C. for 20 minutes under nitrogen. The reaction is quenched with saturated ammonium chloride and warmed to room temperature. Water and saturated sodium bicarbonate is added and the mixture is extracted with ethyl acetate (3×). The combined organic layers are dried over sodium sulfate and the solvent is removed under vacuum. The crude product is purified over silica gel eluting with 5% to 100% ethyl acetate in hexanes gradient, to give the title compound (245 mg, 75%). ES/MS (m/e): 404 (M+H).

reactant | 2-trimethylsilylthiazole | 2.44 mmol, 383 mg | C[Si](C=1SC=CN1)(C)C | C6H11NSSi
reactant | n-butyl lithium | 2.44 mmol, 1.6 M, 1.52 mL | C(CCC)[Li]
reactant | boron trifluoride etherate | 1.62 mmol, 205 μL | B(F)(F)F.CCOCC
reactant | benzyl(3aR)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate | 812 μmol, 200 mg | N=1OC[C@H]2C1CN(C2)C(=O)OCC2=CC=CC=C2 | C13H14N2O3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | Benzyl 6a-(2-trimethylsilylthiazol-5-yl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate | 245 mg, 75% | C[Si](C=1SC(=CN1)C12NOCC1CN(C2)C(=O)OCC2=CC=CC=C2)(C)C | C19H25N3O3SSi
